US07202251B2
Step A. (±)-N-(2-Nitrophenyl)tetrahydrofuran-3-amine
N,N-Diisopropylethylamine (3.2 mL, 18.4 mmol) was added to a solution of 1-fluoro-2-nitrobenzene (0.484 mL, 4.6 mmol) and (±)-tetrahydrofuran-3-amine (400 mg, 4.6 mmol) in n-butanol (10 mL) and the mixture heated to 180° C. in a microwave reactor. After 20 min, the reaction was allowed to cool to ambient temperature and concentrated. Purification by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 0:100, gave the title compound. MS: m/z=209 (M+1).

reactant | N,N-Diisopropylethylamine | 18.4 mmol, 3.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-fluoro-2-nitrobenzene | 4.6 mmol, 0.484 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | (±)-tetrahydrofuran-3-amine | 4.6 mmol, 400 mg | O1CC(CC1)N | C4H9NO
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | (±)-N-(2-Nitrophenyl)tetrahydrofuran-3-amine | [N+](=O)([O-])C1=C(C=CC=C1)NC1COCC1 | C10H12N2O3
